US06191273B1
4-Bromopyridine-2,6-dimethanol
The title compound was synthesized via modification of Acta Chem. Scand. B42, 373, 1988. A mixture of NaBH4 (6.8 g, 180 mmol), diethyl 4-bromopyridine-2,6-dicarboxylate (12.1 g, 40 mmol) in absolute EtOH (500 mL) was heated under reflux for 18 h. The solvent was removed in vacuo and the residue was treated with hot saturated aqueous NaHCO3. The mixture was extracted with EtOAc, the combined organic phase was dried (Na2SO4) and evaporated. The dried material was recrystallized from EtOAc to give 7.3 g (83%) of the title compound as white crystals.

reactant | NaBH4 | 180 mmol, 6.8 g | [BH4-].[Na+]
reactant | diethyl 4-bromopyridine-2,6-dicarboxylate | 40 mmol, 12.1 g | BrC1=CC(=NC(=C1)C(=O)OCC)C(=O)OCC | C11H12BrNO4
solvent | EtOH | 500 mL | CCO | C2H6O
product | 4-Bromopyridine-2,6-dimethanol | 7.3 g, 83% | BrC1=CC(=NC(=C1)CO)CO | C7H8BrNO2
